** Deliberate ngspice engine-boundary injection; the inverter DUT remains unchanged.
** sch_path: /design/modules/module_0_foundations/inverter/inverter_tb.sch
**.subckt inverter_tb
V1 Vin GND PULSE(0 1.2 0.5u 10n 10n 1u 2u 1)
V2 Vdd GND 1.2
x1 Vdd Vin Vout GND inverter
**** begin user architecture code
I_PROBE 0 __openada_fail pulse -250m 250m 100u 10u 10u 90u 200u
R_PROBE __openada_fail 0 1K
B_PROBE_1 __openada_fail 0 I=V(__openada_fail,0)*max(1u,min(1,100*(V(__openada_fail,0)-10)))
B_PROBE_2 0 __openada_fail I=V(0,__openada_fail)*max(1u,min(1,100*(V(0,__openada_fail)-10)))


.control
save all
tran 1u 1m
write test_inverter_fail.raw
.endc



.lib cornerMOSlv.lib mos_tt

**** end user architecture code
**.ends

* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /design/modules/module_0_foundations/inverter/inverter.sym
** sch_path: /design/modules/module_0_foundations/inverter/inverter.sch
.subckt inverter Vdd Vin Vout Gnd
*.iopin Vout
*.iopin Vdd
*.iopin Vin
*.iopin Gnd
XM1 Gnd Vin Vout Gnd sg13_lv_nmos w=1.0u l=0.45u ng=1 m=1 mm_ok=1
XM2 Vout Vin Vdd Vdd sg13_lv_pmos w=2.0u l=0.45u ng=1 m=1 mm_ok=1
.ends

.GLOBAL GND
.end
