Simple RC circuit
**********************************************************************
*
* This circuit has the voltage source applied directly to the
* resistor, with the capacitor tied to ground.
*
**********************************************************************
*Vsrc 1 0 sin(0 1 1e+9 0 0) 
*R1 1 2 0.2
*C1 2 0 0.5e-6
  
*Vsrc 1 0 AC 1 0 
Isrc 1 0 AC 1 0 sin(0 1 1e+5 0 0)
*Vsrc 1 0 sin(0 1 1e+5 0 0)
*Vsrc 1 0 sin(0 1 1e+5 0 0)
*R1 1 2 1e3 
*C1 2 0 2e-6
R1 1 0 1e3
C1 1 0 2e-6

*.print ac v(2)
*.print tran v(2)
*.print shooting V(1) V(2) I(Vsrc)

*.tran 5e-7 1e-4

.AC DEC 10 1 1e5 
*.DC LIN Vsrc 0 5 1
*.tran 1e-7 1e-4
*.options mpde n2=51 diff=3 T2=1e-9 IC=0
*.mpde 0.5e-10 1.0e-8 5e-7
*.hb 1e-9
*.hb 1e-5
*.shooting 1e-5
*.options hb m=20
*.options hb m=5 gmres=1  matimplicit=1
*.options hb m=1 gmres=1  matimplicit=1 real=1 
*.options hb m=5 gmres=1  matimplicit=1 precondition=1
.END
