* Simra hierarchical structural CDL export.
* SIMRA HIERARCHICAL STRUCTURAL EXPORT - unresolved identifiers must be bound before simulation.
.SUBCKT SourceFollower A Y VBIAS VDD VSS
M_BIAS Y VBIAS VSS VSS nmos.core W=10u L=180n M=1 NF=1
M_FOLLOW VDD A Y VSS nmos.core W=10u L=180n M=1 NF=1
.ENDS SourceFollower
