FreePDK45 model-free operating-point and metamorphic fixture
.subckt permuted_nmos g b d s
Mwrapped d g s b nmos.core W=1e-6 L=5e-8 M=1 NF=1
.ends permuted_nmos

Vd_ref d_ref 0 1.0
Vg_ref g_ref 0 1.0
Mref d_ref g_ref 0 0 nmos.core W=1e-6 L=5e-8 M=1 NF=1

Vd_units d_units 0 1.0
Vg_units g_units 0 1.0
Munits d_units g_units 0 0 nmos.core W=1u L=50n M=1 NF=1

Vd_permuted d_permuted 0 1.0
Vg_permuted g_permuted 0 1.0
Xpermuted g_permuted 0 d_permuted 0 permuted_nmos

Vd_flip 0 d_flip -1.0
Vg_flip g_flip 0 1.0
Mflip d_flip g_flip 0 0 nmos.core W=1e-6 L=5e-8 M=1 NF=1

Vd_double d_double 0 1.0
Vg_double g_double 0 1.0
Mdouble d_double g_double 0 0 nmos.core W=2e-6 L=5e-8 M=1 NF=1

Vd_low d_low 0 0.5
Vg_low g_low 0 1.0
Mlow d_low g_low 0 0 nmos.core W=1e-6 L=5e-8 M=1 NF=1

Vd_high d_high 0 0.75
Vg_high g_high 0 1.0
Mhigh d_high g_high 0 0 nmos.core W=1e-6 L=5e-8 M=1 NF=1

.op
.end
