GF180MCU D model-free operating-point and metamorphic fixture
.subckt permuted_nmos g b d s
Mwrapped d g s b nmos.core W=2.2e-7 L=2.8e-7 M=1 NF=1
.ends permuted_nmos

Vd_ref d_ref 0 3.3
Vg_ref g_ref 0 3.3
Mref d_ref g_ref 0 0 nmos.core W=2.2e-7 L=2.8e-7 M=1 NF=1

Vd_units d_units 0 3.3
Vg_units g_units 0 3.3
Munits d_units g_units 0 0 nmos.core W=0.22u L=0.28u M=1 NF=1

Vd_permuted d_permuted 0 3.3
Vg_permuted g_permuted 0 3.3
Xpermuted g_permuted 0 d_permuted 0 permuted_nmos

Vd_flip 0 d_flip -3.3
Vg_flip g_flip 0 3.3
Mflip d_flip g_flip 0 0 nmos.core W=2.2e-7 L=2.8e-7 M=1 NF=1

Vd_double d_double 0 3.3
Vg_double g_double 0 3.3
Mdouble d_double g_double 0 0 nmos.core W=4.4e-7 L=2.8e-7 M=1 NF=1

Vd_low d_low 0 1.65
Vg_low g_low 0 3.3
Mlow d_low g_low 0 0 nmos.core W=2.2e-7 L=2.8e-7 M=1 NF=1

Vd_high d_high 0 2.475
Vg_high g_high 0 3.3
Mhigh d_high g_high 0 0 nmos.core W=2.2e-7 L=2.8e-7 M=1 NF=1

.op
.end
